US09278323B2
Budenoside Nanoparticles by Emulsion Crystallisation
Water (800 mL) was charged to a 1 L stirred crystallizer fitted with a thermo-regulation jacket. The temperature was adjusted to 45° C. Water was pumped around a recirculation loop using a diaphragm pump (operating at 20 L/h) and a 250 ml thermo-regulated glass ultrasonic flow-cell fitted with a 30 mm diameter 20 kHz ultrasonic probe. The probe was held at the highest position in the flow-cell and sealed/clamped at a point of zero vibration (null point). The flow-cell was thermo-regulated at 45° C. Continuous ultrasound was applied at 15 W power, 5 micron amplitude. Budesonide (0.8 g) was dissolved in dichloromethane (80 mL). The solution was dispersed in an aqueous phase held at 45° C. consisting of 800 ml of a 0.2% (w/v) solution of Tween 80. The dichloromethane solution was pumped into the ultrasonic flow-cell using a second inlet on the underside of the flow-cell at a rate of 20 ml/h. The resulting suspension was stirred for 30 minutes at 300 rpm with sonication. Product was collected as aqueous suspension.

reactant | Water | 800 mL | O | H2O
reactant | Budesonide | 0.8 g | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Budenoside | CCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C24H32O6
